data/mechanism_extracts/GreenChem/10.1039_d5gc01259g.json
{"doi": "10.1039_d5gc01259g", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical amidoselenation of unactivated alkenes with diaryl diselenides via tandem radical selenation/oxidative Ritter reaction to give 1,4-selenoamide products", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of diphenyl diselenide to its radical cation, which fragments into PhSe+ and PhSe•; PhSe+ is reduced at the cathode to a second PhSe• radical; after radical addition to alkene, the resulting C-radical is re-oxidized at the anode to a selenonium/carbocation; protons are reduced at the cathode to H2", "key_intermediates": [{"name": "diphenyl diselenide radical cation", "smiles": "[c-]1ccccc1[Se][Se]c1ccccc1", "role": "transient"}, {"name": "phenylselenium cation (PhSe+)", "smiles": "[Se+]c1ccccc1", "role": "transient"}, {"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylseleno-substituted cyclohexyl radical (A)", "smiles": "[CH]1CCCCC1[Se]c1ccccc1", "role": "reactive"}, {"name": "selenonium/cyclohexyl cation B (after anodic oxidation of A)", "smiles": "[C+]1CCCCC1[Se]c1ccccc1", "role": "reactive"}, {"name": "nitrilium ion intermediate C (Ritter adduct with MeCN)", "smiles": "C[N+]#CC1CCCCC1[Se]c1ccccc1", "role": "transient"}, {"name": "water-trapped intermediate D", "smiles": null, "role": "transient"}, {"name": "IM1 (radical adduct, DFT)", "smiles": null, "role": "transient"}, {"name": "1IM2 singlet selenonium cation (DFT, -35.93 kcal/mol)", "smiles": null, "role": "reactive"}, {"name": "IM3 nitrilium-cyclohexyl adduct (DFT)", "smiles": null, "role": "transient"}, {"name": "IM4 water-added amide precursor (DFT)", "smiles": null, "role": "transient"}, {"name": "IM5 tautomer prior to deprotonation (DFT)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes (PhSe)2 to its radical cation, which fragments to PhSe+ and PhSe•; PhSe+ is reduced at the cathode to a second PhSe•. PhSe• adds to cyclohexene to give a C-radical A, which the anode oxidizes to selenonium/cation B; MeCN attacks (Ritter) to give nitrilium C, water adds to D, and deprotonation/tautomerization yields the amide 3n while protons are reduced to H2 at the cathode.", "rate_determining_step": "Water addition to nitrilium intermediate IM3 via TS4 (barrier ~21.12 kcal/mol), the highest barrier on the DFT pathway", "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield suppressed to 55% (2 eq) and 20% (4 eq), consistent with radical involvement"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "2 eq DPE fully inhibited the reaction (trace product); PhSe-DPE adduct detected by HRMS (m/z 337.0490)"}, {"name": "HRMS detection of selenonium cation", "smiles": null, "purpose": "intermediate_trap", "observation": "C12H15Se+ detected (m/z 239.0332), confirming selenonium ion formation"}, {"name": "anhydrous/dry MeCN under N2", "smiles": null, "purpose": "isotope_label", "observation": "Yield dropped to 43%, indicating moisture/water is the oxygen source for the amide"}, {"name": "PhSeCl substitution for (PhSe)2", "smiles": "[Se](Cl)c1ccccc1", "purpose": "intermediate_trap", "observation": "No product at 65 °C/5 h; with (NH4)2S2O8 as oxidant 32%; under electrochemical conditions without oxidant 15% — supports radical (not ionic) pathway from diselenide"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Cyclohexene 1n not electroactive in window; (PhSe)2 oxidized at 1.70 V; second oxidation peak of 1n+2n shifts from 2.36 V to 2.10 V upon TsOH addition, showing acid promotes oxidation"}, {"name": "Cathodic H2 detection", "smiles": null, "purpose": "other", "observation": "H2 evolution confirmed at cathode, consistent with proton reduction completing the redox balance"}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "DFT", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors explicitly disfavor an ionic PhSe+ addition pathway based on PhSeCl control experiments (no reaction without oxidant); the favored pathway is radical addition of PhSe• followed by anodic oxidation of the C-radical (radical-polar crossover) and Ritter trapping by MeCN/H2O. DFT shows the singlet selenonium cation 1IM2 is much more stable than the triplet 3IM2 (-35.93 vs -1.66 kcal/mol), so the singlet cation is the operative species for nucleophilic capture."}
